US03989708
Boiling a solution of 14.6 g of benzylideneacetone and 13.0 g of amidinoacetic acid ethyl ester in 150 ml of ethanol for 2 hours yields 2-amino-6-methyl-4-phenyl-1,4-dihydropyridine-3-carboxylic acid ethyl ester of melting point 150°C (ethanol). Yield: 73 percent of theory.

reactant | benzylideneacetone | 14.6 g | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-phenyl-1,4-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 73 percent | C(C)OC(=O)C1=C(NC(=CC1C1=CC=CC=C1)C)N | C15H18N2O2
